US09108986B2
In 60 ml of methylene chloride, 1.00 g of 2-methylquinoline was dissolved, and the catalyst-containing mixture was added. After cooling to −10° C., 8.4 ml of a mixed solvent of formic acid/triethylamine (molar ratio: 5/2) was added dropwise, and the mixture was stirred at the same temperature overnight to give 2-methyl-1,2,3,4-tetrahydroquinoline. The S-enantiomer was in excess and the optical purity was 86.4% ee.

reactant | 2-methylquinoline | 1.00 g | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | formic acid triethylamine | C(=O)O.C(C)N(CC)CC
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-1,2,3,4-tetrahydroquinoline | CC1NC2=CC=CC=C2CC1 | C10H13N
